### PR TITLE
Formalize the Karoubi envelope using the presheaf category

### PR DESCRIPTION
**Pull request by arnoudvanderleer**
and show that the two definitions are equivalent.

### CODE REVIEW

**Review by nmvdw — APPROVED** [review]
Looks good to me (modulo minor comments).

File: UniMath/AlgebraicTheories/FundamentalTheorem/CommonUtilities/KaroubiEnvelope.v [hunk 1]
```diff
@@ -321,9 +377,292 @@ Section KaroubiEnvelope.
...
+      := full_subcat
+        (PreShv C)
+        (λ P, ∑ (A : C), retraction P (yoneda _ A)).
+
+    Definition karoubi'_mor_eq
+      {A B : karoubi_envelope'}
+      (f f' : karoubi_envelope'⟦A, B⟧)
+      (H : pr1 f = pr1 f')
+      : f = f'
+      := pathsdirprod H (pr1 (isapropunit _ _)).
```
Comment (benediktahrens) [inline UniMath/AlgebraicTheories/FundamentalTheorem/CommonUtilities/KaroubiEnvelope.v:395]: It might not matter, but it could be useful to prove this in tactic mode and `Qed.` it.

**Review by benediktahrens — APPROVED** [review]

File: UniMath/AlgebraicTheories/FundamentalTheorem/CommonUtilities/KaroubiEnvelope.v [hunk 2]
```diff
@@ -300,6 +307,45 @@ Section KaroubiEnvelope.
       ).
   Defined.
 
+(** ** 1.6. If the karoubi envelope is univalent, C is univalent *)
+
+  Definition karoubi_embedding_paths_weq
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/FundamentalTheorem/CommonUtilities/KaroubiEnvelope.v:312]: I think more can be made opaque in this definition.

File: UniMath/AlgebraicTheories/FundamentalTheorem/CommonUtilities/KaroubiEnvelope.v [hunk 3]
```diff
@@ -300,6 +307,45 @@ Section KaroubiEnvelope.
...
+      refine (isaset_carrier_subset (homset _ _) (λ _, make_hProp _ _)).
+      apply homset_property.
+  Defined.
+
+  Lemma karoubi_univalence
+    (H : is_univalent karoubi_envelope)
+    : is_univalent C.
+  Proof.
+    intros X Y.
+    use isweqhomot.
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/FundamentalTheorem/CommonUtilities/KaroubiEnvelope.v:337]: What about using `weqhomot`?

**Review by nmvdw — APPROVED** [review]

File: UniMath/AlgebraicTheories/FundamentalTheorem/CommonUtilities/KaroubiEnvelope.v (hunk 3 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/FundamentalTheorem/CommonUtilities/KaroubiEnvelope.v:337]: Oh, I did not know that that existed as well. Yes, that is the one I needed!

File: UniMath/AlgebraicTheories/FundamentalTheorem/CommonUtilities/KaroubiEnvelope.v (hunk 2 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/FundamentalTheorem/CommonUtilities/KaroubiEnvelope.v:312]: Oh, you are right. I will make the last two parts opaque.
